US06573274B1
A mixture of 2,7-dimethyl-3H-imidazo[4,5-b]pyridine-4-oxide (4.45 g), chloroform (4.5 ml) and phosphorus oxychloride (25.4 ml) was stirred at 80° C. for 3 hr and concentrated to dryness under reduced pressure. The residue was poured into ice (75 g) and neutralized with aqueous ammonia under ice-cooling. After stirring at room temperature for 30 min, the precipitated solid was collected by filtration and washed with water to give 5-chloro-2,7-dimethyl-3H-imidazo[4,5-b]pyridine as a gray powder (3.66 g).

reactant | 2,7-dimethyl-3H-imidazo[4,5-b]pyridine-4-oxide | 4.45 g | CC1=NC=2C(=[N+](C=CC2C)[O-])N1 | C8H9N3O
reactant | phosphorus oxychloride | 25.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 4.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2,7-dimethyl-3H-imidazo[4,5-b]pyridine | 3.66 g | ClC1=CC(=C2C(=N1)NC(=N2)C)C | C8H8ClN3
